US08080668B2
Preparation of 2-(4-Trifluoromethyl-phenylamino)-thiazole-4-carboxylic acid
3-Bromo-2-oxo-propionic acid ethyl ester (0.59 mL) was added to a suspension of (4-trifluoromethyl-phenyl)-thiourea (1 grams), obtained in step (ii) of example-1, in ethanol (20 mL) and refluxed for about 12 hours. The reaction mixture was cooled and the solid obtained was filtered and dissolved in a minimum amount ethanol. 10% sodium hydroxide solution (10 mL) was added and stirred at about 25-35° C. for about 12 hours. The reaction mixture was then diluted with water and acidified with saturated citric acid solution. The solid that precipitated was filtered washed with water and dried to give the product (0.65 grams).

reactant | 3-Bromo-2-oxo-propionic acid ethyl ester | 0.59 mL | C(C)OC(C(CBr)=O)=O | C5H7BrO3
reactant | (4-trifluoromethyl-phenyl)-thiourea | 1 grams | FC(C1=CC=C(C=C1)NC(=S)N)(F)F | C8H7F3N2S
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-(4-Trifluoromethyl-phenylamino)-thiazole-4-carboxylic acid | 0.65 grams | FC(C1=CC=C(C=C1)NC=1SC=C(N1)C(=O)O)(F)F | C11H7F3N2O2S
